US06916819B2
4) Preparation 8-{[2-(6-fluoropyridin-2-yl)-1H-imidazol-1-yl]methyl}-2,9-dimethyl-9H-purine
A mixture of 8-Chloromethyl-2,9-dimethyl-9H-purine (40 mg, 0.2 mmol), 2-Fluoro-6-(1H-imidazol-2-yl)-pyridine (40 mg, 0.25 mmol) and K2CO3 (55 mg, 0.4 mmol) in 2 mL of DMF is stirred at room temperature for four hours. The mixture is diluted with water (10 mL), and extracted with ethyl acetate three times. The combined extract is washed with brine, dried and concentrated. The residue is purified by preparative thin layer chromatography to give the title compound. 1H NMR(CDCl3): δ 8.92 (s, 1H), 8.18 (dd, 1H), 7.88 (q, 1H), 7.25 (s, 1H), 7.20 (s, 1H), 7.11 (s, 1H), 6.83 (dd, 1H), 6.22 (s, 2H), 3.89 (s, 3H), 2.8 (s, 3H). LRMS calcd 323, found 324 (MH+).

reactant | 8-Chloromethyl-2,9-dimethyl-9H-purine | 0.2 mmol, 40 mg | ClCC=1N(C2=NC(=NC=C2N1)C)C | C8H9ClN4
reactant | 2-Fluoro-6-(1H-imidazol-2-yl)-pyridine | 0.25 mmol, 40 mg | FC1=NC(=CC=C1)C=1NC=CN1 | C8H6FN3
reactant | K2CO3 | 0.4 mmol, 55 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | 10 mL | O | H2O
product | 8-{[2-(6-fluoropyridin-2-yl)-1H-imidazol-1-yl]methyl}-2,9-dimethyl-9H-purine | FC1=CC=CC(=N1)C=1N(C=CN1)CC=1N(C2=NC(=NC=C2N1)C)C | C16H14FN7
